US07897762B2
To a solution of ethyl 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylate (16.4 g, 64.4 mmol) in anhydrous THF (100 mL) was added LiAlH4 (6.1 g, 0.16 mol) in portions at 0° C. under N2 atmosphere. The reaction mixture was stirred an additional 30 min at RT and was quenched by the addition of water (6 mL) followed by aqueous 2 N NaOH (6 mL). The suspension was filtered and the filtrate was concentrated to give (4-(isopropylamino)-2-(methylthio)pyrimidin-5-yl)methanol (13.5 g, 98% yield), which was used without further purification. 1H NMR (400 MHz, DMSO-d6): δ 7.79 (s, 1 H), 6.37 (d, J=7.6 Hz, 1 H), 5.10 (t, J=5.6 Hz, 1 H), 4.28-4.20 (m, 3 H), 2.38 (s, 3 H), 1.13 (d, J=6.4 Hz, 6 H).

reactant | ethyl 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylate | 64.4 mmol, 16.4 g | C(C)(C)NC1=NC(=NC=C1C(=O)OCC)SC | C11H17N3O2S
reactant | LiAlH4 | 0.16 mol, 6.1 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-(isopropylamino)-2-(methylthio)pyrimidin-5-yl)methanol | 13.5 g, 98% yield | C(C)(C)NC1=NC(=NC=C1CO)SC | C9H15N3OS
